US05545666
29.25 g (0.174 mol) of (2E)-3-cyclohexylpropenoic acid methyl ester was dissolved in 200 ml of ether (dried over dry nap). Thereto was added 412 ml (0.383 mol) of diisobutylaluminum hydride (n-hexane solution, 0.93N) in an argon stream at -60° C. over a 15-minute period. The mixture was stirred at the same temperature for 30 minutes. n-Hexane and diethyl ether were added. The resulting mixture was washed with a saturated aqueous ammonium chloride solution, hydrochloric acid (0.2N) and a saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated. The concentrate was purified by silica gel column chromatography (n-hexane/ethyl acetate=19/1 to 9/1) and distillation (57.0°-58.5° C./0.40-0.42 mmHg) to obtain 20.1 g (0.143 mol) of (2E)-3-cyclohexyl-2-propen-1-ol.

reactant | (2E)-3-cyclohexylpropenoic acid methyl ester | 0.174 mol, 29.25 g | COC(\C=C\C1CCCCC1)=O | C10H16O2
reactant | diisobutylaluminum hydride | 0.383 mol, 0.93N, 412 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | n-Hexane | CCCCCC | C6H14
solvent | ether | 200 ml | CCOCC | C4H10O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2E)-3-cyclohexyl-2-propen-1-ol | 0.143 mol, 20.1 g | C1(CCCCC1)/C=C/CO | C9H16O
